US05547972
In a similar manner to Example 1, a mixture of 4'-chloroacetophenone (4.0 g) and 1-(3-aminopropyl)-2,4-dimethylimidazole (4.0 g) was heated at 115°-120° C. for 7 hours then reduced with sodium borohydride (2.0 g) in ethanol (70 ml) over 18 hours. The solid obtained was triturated with propan-2-ol and filtered to give N-[1-(4-chlorophenyl)ethyl]-3-(2,4-dimethylimidazol-1-yl)propylamine dihydrochloride, m.p. 218°-220° C.

reactant | 4'-chloroacetophenone | 4.0 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | 1-(3-aminopropyl)-2,4-dimethylimidazole | 4.0 g | NCCCN1C(=NC(=C1)C)C | C8H15N3
reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | N-[1-(4-chlorophenyl)ethyl]-3-(2,4-dimethylimidazol-1-yl)propylamine dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C(C)NCCCN1C(=NC(=C1)C)C | InChI=1S/C16H22ClN3.2ClH/c1-12-11-20(14(3)19-12)10-4-9-18-13(2)15-5-7-16(17)8-6-15;;/h5-8,11,13,18H,4,9-10H2,1-3H3;2*1H
